US04849414
(a) N2 -[(1,1-Dimethylethoxy)carbonyl]-N6 -[(phenylmethoxy)carbonyl]-L-lysine, ethyl ester
N2 -[(1,1-Dimethylethoxy)carbonyl]-N6 -[(phenylmethoxy)carbonyl]-L-lysine (5.48 g., 14.4 mmole) is dissolved in ethyl acetate (130 ml.). Diazomethane is added until a yellow color persists. Acetic acid is added to quench the excess diazomethane, and the volatiles are evaporated. The residue is partitioned between ethyl acetate and saturated sodium bicarbonate, the organic layer is dried over sodium sulfate, filtered, and then the volatiles are evaporated. Purification of the residue by column chromatography on LPS-1 silica eluting with 30% ethyl acetate/hexane yields 4.0 g. of N2 -[(1,1-dimethylethoxy)carbonyl]-N6 -[(phenylmethoxy)carbonyl]-L-lysine, methyl ester. TLC (silica gel; hexane:acetone, 1:1) Rf =0.69.

reactant | N2 [(1,1-Dimethylethoxy)carbonyl]-N6 -[(phenylmethoxy)carbonyl]-L-lysine | 14.4 mmole, 5.48 g | N#N.CC(C)(OC(=O)N[C@@H](CCCCNC(=O)OCC1=CC=CC=C1)C(=O)O)C
reactant | Diazomethane | [N+](=[N-])=C | CH2N2
reactant | Acetic acid | C(C)(=O)O | C2H4O2
reactant | N2 [(1,1-dimethylethoxy)carbonyl]-N6 -[(phenylmethoxy)carbonyl]-L-lysine, methyl ester | N#N.CC(C)(OC(=O)N[C@@H](CCCCNC(=O)OCC1=CC=CC=C1)C(=O)OC)C
solvent | ethyl acetate | 130 ml | C(C)(=O)OCC | C4H8O2
solvent | acetone | CC(=O)C | C3H6O
solvent | hexane | CCCCCC | C6H14
product | N2 [(1,1-Dimethylethoxy)carbonyl]-N6 -[(phenylmethoxy)carbonyl]-L-lysine, ethyl ester | N#N.CC(C)(OC(=O)N[C@@H](CCCCNC(=O)OCC1=CC=CC=C1)C(=O)OCC)C | InChI=1S/C21H32N2O6.N2/c1-5-27-18(24)17(23-20(26)29-21(2,3)4)13-9-10-14-22-19(25)28-15-16-11-7-6-8-12-16;1-2/h6-8,11-12,17H,5,9-10,13-15H2,1-4H3,(H,22,25)(H,23,26);/t17-;/m0./s1
